data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_574218_2,[C:1]([C:4]([N:3]([N:2]([O:6][N:5]([H:10])[H:11])[H:8])[H:9])=[O:7])([H:12])([H:13])[H:14]>>[C:1]([C:4]([N:2]([N:3]([O:6][N:5]([H:10])[H:11])[H:9])[H:8])=[O:7])([H:12])([H:13])[H:14],24.186987500035144
MR_330781_2,[C:1]([C:2]([O:4][H:8])=[O:6])([C:3](=[O:7])[H:11])([O:5][H:9])[H:10]>>[C:1]([C:2]([C:3](=[O:7])[H:11])([O:4][H:8])[O:6][H:9])(=[O:5])[H:10],49.89440749994117
MR_75945_0,[C:1]([C:2]([C:4]([H:16])([H:17])[H:18])=[O:8])([C:3]([H:13])([H:14])[H:15])([C:6]([C:5]([H:19])([H:20])[H:21])([O:9][H:11])[H:12])[O:7][H:10]>>[C:1]([C:2]([C:4]([H:16])([H:17])[H:18])([O:8][H:11])[H:12])([C:3]([H:13])([H:14])[H:15])([C:6]([C:5]([H:19])([H:20])[H:21])=[O:9])[O:7][H:10],57.21795999999898
MR_444061_0,[C:1](/[C:3](=[C:4]([C:2]([H:17])([H:18])[H:19])/[C:7](=[N:8]\[N:5]([H:9])[H:10])[H:13])[N:6]([H:11])[H:12])([H:14])([H:15])[H:16]>>[C:1]([C:3]1([N:6]([H:11])[H:12])[C:4]([C:2]([H:17])([H:18])[H:19])=[C:7]([H:13])[N:8]1[N:5]([H:9])[H:10])([H:14])([H:15])[H:16],43.30502999999155
MR_385562_1,[C:1]1([N:8]([H:12])[H:13])([H:11])[N:4]([H:9])[C:7]([C:3]([H:17])([H:18])[H:19])=[C:6]([C:2]([H:14])([H:15])[H:16])[N:5]1[H:10]>>[C:1]1([N:8]([H:12])[H:13])([H:11])[N:4]([H:9])[C:7]1([C:3]([H:17])([H:18])[H:19])/[C:6]([C:2]([H:14])([H:15])[H:16])=[N:5]/[H:10],48.27671249999483
MR_403549_1,[C:1](/[N:9]=[N:8]/[N:3]([C:5]([C:2]([H:18])([H:19])[H:20])=[C:4]([N:6]([H:11])[H:12])[N:7]([H:13])[H:14])[H:10])([H:15])([H:16])[H:17]>>[C:1]([N:9]([N:8]1[N:3]([H:10])[C:5]1([C:2]([H:18])([H:19])[H:20])/[C:4]([N:6]([H:11])[H:12])=[N:7]/[H:13])[H:14])([H:15])([H:16])[H:17],70.12626250001034
MR_325112_1,[C:1](=[C:2]([N:4]([H:10])[H:11])[N:5]([H:12])[H:13])([N:3]([H:8])[H:9])[O:6][H:7]>>[C:1]1([N:3]([H:8])[H:9])([H:7])[C:2]([N:4]([H:10])[H:11])([N:5]([H:12])[H:13])[O:6]1,50.76098499996476
MR_180129_1,[C:1]1([C:2]([O:7][C:4]([H:13])([H:14])[H:15])([O:8][H:9])[H:10])([C:5]([H:16])([H:17])[H:18])[C:3]([H:11])([H:12])[O:6]1>>[C@@:1]1([C@@:2]([O:7][C:4]([H:13])([H:14])[H:15])([O:8][H:9])[H:10])([C:5]([H:16])([H:17])[H:18])[C:3]([H:11])([H:12])[O:6]1,65.09998750000221
MR_265309_1,[C:1]([C:3]([H:16])([H:17])[H:18])([N:4]([C:2]([H:13])([H:14])[H:15])/[N:7]=[N:8]/[N:5]([H:11])[H:12])([O:6][H:9])[H:10]>>[C@@:1]([C:3]([H:16])([H:17])[H:18])([O:6][H:9])([N:8]([N:5]([H:11])[H:12])/[N:7]=[N:4]\[C:2]([H:13])([H:14])[H:15])[H:10],62.39357999998674
MR_115433_1,[C:1](/[C:5](=[N:6]/[N:2]([C:3]([N:4]([H:9])[H:10])=[O:7])[H:8])[H:11])([H:12])([H:13])[H:14]>>[C:1]([C:5]([C:3]([N:4]([H:9])[H:10])=[O:7])(/[N:6]=[N:2]/[H:8])[H:11])([H:12])([H:13])[H:14],72.23779999999394
MR_583449_0,[C:1]([N:2]([N:3]([H:8])[H:9])[C:4](=[O:6])[H:12])([O:5][H:7])([H:10])[H:11]>>[C:1]([O:5][H:7])([O:6]/[C:4](=[N:2]\[N:3]([H:8])[H:9])[H:12])([H:10])[H:11],63.99997999999727
MR_144430_0,[C@:1]([C:3]([H:14])([H:15])[H:16])([N:4]([O:5][C:2]([H:11])([H:12])[H:13])[O:6][H:8])([O:7][H:9])[H:10]>>[C@@:1]([C:3]([H:14])([H:15])[H:16])([N:4]([O:6][H:8])[O:7][H:9])([O:5][C:2]([H:11])([H:12])[H:13])[H:10],72.67328500000019
MR_673145_0,[N:1]([O:2][N:3]=[O:4])([H:5])[H:6]>>[N:1]([O:4][N:3]=[O:2])([H:5])[H:6],33.26942249996819
MR_666315_1,[C:1]([C:2]([N:8]([H:15])[H:16])([H:17])[H:18])([N:4]([N:5]([C:3]([H:19])([H:20])[H:21])[H:10])[H:9])([N:6]([H:11])[H:13])[N:7]([H:12])[H:14]>>[C:1]([N:4]([C:2]([N:8]([H:15])[H:16])([H:17])[H:18])[H:9])([N:5]([C:3]([H:19])([H:20])[H:21])[H:10])([N:6]([H:11])[H:13])[N:7]([H:12])[H:14],72.48252500001811
MR_43301_0,[C@@:1]([C:3]([H:15])([H:16])[H:17])(/[C:4]([N:5]([H:10])[H:11])=[N:7]/[C:2]([H:12])([H:13])[H:14])([O:6][H:8])[H:9]>>[C:1](\[C:3]([H:15])([H:16])[H:17])(=[C:4](/[N:5]([H:10])[H:11])[N:7]([C:2]([H:12])([H:13])[H:14])[H:9])[O:6][H:8],61.274120000030905
MR_396803_1,[C:1](/[C:4](=[C:6]([C:2]([H:17])([H:18])[H:19])\[C:5]([N:7]([H:11])[H:12])=[C:8](/[C:3]([H:20])([H:21])[H:22])[H:13])[O:9][H:10])([H:14])([H:15])[H:16]>>[C:1]([C:4]1([O:9][H:10])[C:6]([C:2]([H:17])([H:18])[H:19])=[C:5]([N:7]([H:11])[H:12])[C:8]1([C:3]([H:20])([H:21])[H:22])[H:13])([H:14])([H:15])[H:16],36.41570749997882
MR_26212_1,[C:1](/[C:3](=[C:4](/[C:2]([H:14])([H:15])[H:16])[H:13])[O:8][H:12])([O:5][H:9])([O:6][H:10])[O:7][H:11]>>[C:1]1([O:5][H:9])([O:6][H:10])[C:3]([O:7][H:11])([O:8][H:12])[C:4]1([C:2]([H:14])([H:15])[H:16])[H:13],59.94005500001052
MR_108700_1,[C@:1]([C:4]([H:18])([H:19])[H:20])([N:5]([C:2]([H:12])([H:13])[H:14])/[C:6](=[N:8]\[C:3]([H:15])([H:16])[H:17])[H:11])([O:7][H:9])[H:10]>>[C:1]([C:4]([H:18])([H:19])[H:20])([O:7][H:9])([N:8]([C:3]([H:15])([H:16])[H:17])/[C:6](=[N:5]/[C:2]([H:12])([H:13])[H:14])[H:11])[H:10],63.418914999966205
MR_191477_0,[C:1]([C:2]([H:12])([H:13])[H:14])(/[C:5]([C:3]([H:15])([H:16])[H:17])=[C:7](\[C:4]([H:18])([H:19])[H:20])[H:11])([C:6](=[O:8])[H:10])[H:9]>>[C:1](\[C:2]([H:12])([H:13])[H:14])(=[C:5](/[C:3]([H:15])([H:16])[H:17])[C:7]([C:4]([H:18])([H:19])[H:20])([C:6](=[O:8])[H:10])[H:11])[H:9],55.15223000004241
